data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC1=CC(B2OC(C)(C)C(C)(C)O2)=CC=C1NC(=O)C1=CC2=CC=CC=C2N1C.COCCOC.NC1=C2C(I)=NN(C3=CC=[N+]([O-])C=C3)C2=NC=N1.O.O=C([O-])[O-].[Na+].[Na+].[Pd:1]|(2, 1)",27,6,reaction_18,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC1=CC(B2OC(C)(C)C(C)(C)O2)=CC=C1NC(=O)C1=CC2=CC=CC=C2N1C.COCCOC.NC1=NC=NC2=C1C(I)=NN2C1=CC=[N+]([O-])C=C1.O.O=C([O-])[O-].[Na+].[Na+]|(1, 2)",27,5,reaction_18,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC1=CC(B2OC(C)(C)C(C)(C)O2)=CC=C1NC(=O)C1=CC2=CC=CC=C2N1C.COCCOC.NC1=NC=NC2=C1[C:1]([I:2])=NN2C1=CC=[N+]([O-])C=C1.O.O=C([O-])[O-].[Na+].[Na+]|(3, 1);((1, 2), 3)",27,4,reaction_18,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC1=CC(B2OC(C)(C)C(C)(C)O2)=CC=C1NC(=O)C1=CC2=CC=CC=C2N1C.COCCOC.NC1=NC=NC2=C1[C]([Pd-2:2]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[I:3])=NN2C1=CC=[N+]([O-])C=C1.O.O=C([O-])[O-:4].[Na+:1].[Na+]|(4, 2);((2, 3), 1)",27,3,reaction_18,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC1=C[C:1]([B:3]2OC(C)(C)C(C)(C)O2)=CC=C1NC(=O)C1=CC2=CC=CC=C2N1C.COCCOC.NC1=NC=NC2=C1[C]([Pd-2:2]([O]C(=O)[O-])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NN2C1=CC=[N+]([O-])C=C1.O.[Na+].[Na][I]|(2, 1);((1, 3), 2)",27,2,reaction_18,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC1=C[C]([Pd-2:2]([C]2=NN(C3=CC=[N+]([O-])C=C3)C3=NC=NC(N)=C32)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([B:1]2OC(C)(C)C(C)(C)O2)[O:3]C(=O)[O-])=CC=C1NC(=O)C1=CC2=CC=CC=C2N1C.COCCOC.O.[Na+].[Na][I]|((2, 3), 1);((1, 2), 2)",27,1,reaction_18,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(C)OB(OC(=O)[O-])OC1(C)C.COC1=C[C:1]([Pd-2:2]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:3]2=NN(C3=CC=[N+]([O-])C=C3)C3=NC=NC(N)=C32)=CC=C1NC(=O)C1=CC2=CC=CC=C2N1C.COCCOC.O.[Na+].[Na][I]|((2, 1), 3);((3, 2), 2)",27,0,reaction_18,USPTO_suzuki,train
"BrC1=CC=CS1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COCCOC.O.O=C([O-])[O-].OB(O)C1=CC=C(F)C=C1.[Na+].[Na+].[Pd:1]|(2, 1)",15,6,reaction_41,USPTO_suzuki,train
"BrC1=CC=CS1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COCCOC.O.O=C([O-])[O-].OB(O)C1=CC=C(F)C=C1.[Na+].[Na+]|(1, 2)",15,5,reaction_41,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:2][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CS[C:3]([Br:1])=C1.COCCOC.O.O=C([O-])[O-].OB(O)C1=CC=C(F)C=C1.[Na+].[Na+]|(2, 3);((3, 1), 2)",15,4,reaction_41,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:4]([C]2=CC=CS2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[Br:3])C=C1.COCCOC.O.O=C([O-])[O-:1].OB(O)C1=CC=C(F)C=C1.[Na+:2].[Na+]|(1, 4);((4, 3), 2)",15,3,reaction_41,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COCCOC.O.O=C([O-])[O][Pd-2:2]([C]1=CC=CS1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[B:3](O)[C:1]1=CC=C(F)C=C1.[Na+].[Na][Br]|(2, 1);((1, 3), 2)",15,2,reaction_41,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COCCOC.O.O=C([O-])[O:1][Pd-2:2]([C]1=CC=C(F)C=C1)([C]1=CC=CS1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[B:3](O)O.[Na+].[Na][Br]|((2, 1), 3);((3, 2), 2)",15,1,reaction_41,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COCCOC.FC1=CC=[C:1]([Pd-2:2]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:3]2=CC=CS2)C=C1.O.O=C([O-])OB(O)O.[Na+].[Na][Br]|((2, 1), 3);((3, 2), 2)",15,0,reaction_41,USPTO_suzuki,train
